US06660744B1
A mixture of trifluoroacetic acid/dichloromethane (20:80, 28 mL) was added to a solution of tert-butyl N-{4-[4-amino-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}carbamate (0.914 g, 1.70 mmol) in dichloromethane (5 mL) at 0° C. After 15 minutes, the ice-bath was removed and the reaction mixture was stirred at room temperature for 5 hours. Solvents were then evaporated and the residue was dissolved in dichloromethane. Saturated sodium bicarbonate was added to adjust the pH to about 8. The layers were separated and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated give 3-(4-amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.726 g, 97%). 1H NMR (CDCl3) δ 1.67 (m, 2H) 1.83 (m, 4H), 2.00 (m, 2H), 2.27 (s, 3H), 2.39 (m, 5H), 2.91 (m, 2H), 3.08 (m, 2H), 3.92 (s, 3H), 3.99 (m, 2 h), 4.73 (m, 1H), 5.56 (bs, 2H), 6.82 (d, J=7.87, 1H), 7.08 (d, J=7.84, 1H), 7.13 (s, 1H), 8.34 (s, 1H).

reactant | trifluoroacetic acid dichloromethane | 28 mL | FC(C(=O)O)(F)F.ClCCl
reactant | tert-butyl N-{4-[4-amino-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}carbamate | 1.70 mmol, 0.914 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C2CCN(CC2)C2CCN(CC2)C | C28H40N8O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(4-amino-3-methoxyphenyl)-1-[1-(1-methylpiperidin-4-yl)-piperidin-4-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.726 g, 97% | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C2CCN(CC2)C)OC | C23H32N8O
